US04943582
4-t-Butylphenol (10 g) and sodium hydroxide (3.99 g) were added to a stirred mixture of water (60 ml) and dichloromethane (60 ml) followed by benzyltrimethylammonium hydroxide (40% solution in methanol, 150 ml) and 3-chloro-3-methyl-butyne (13.65 g). After stirring at ambient temperature for 11 days, the layers were separated and the aqueous layer extracted with chloroform. The combined organic extracts were concentrated in vacuo and the residue dissolved in diethyl ether. The solution was washed with water, 10% sodium hydroxide solution, then brine, and dried over magnesium sulphate. Removal of drying agent and solvent gave 3-methyl-3-(4-t-butylphenoxy)-but-1-yne as a yellow oil (13.35 g).

reactant | 4-t-Butylphenol | 10 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | sodium hydroxide | 3.99 g | [OH-].[Na+]
reactant | benzyltrimethylammonium hydroxide | 150 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 3-chloro-3-methyl-butyne | 13.65 g | ClC(C#C)(C)C | C5H7Cl
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | water | 60 ml | O | H2O
product | 3-methyl-3-(4-t-butylphenoxy)-but-1-yne | 13.35 g | CC(C#C)(C)OC1=CC=C(C=C1)C(C)(C)C | C15H20O
